US04159375
6-(α,α,α-Trifluoro-m-tolyl)-1,2,4-triazolo[4,3-b]-1,2,4-triazine overnight
A mixture of one gram of 3-hydrazino-6-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine and 15 ml. of ethyl orthoformate is refluxed for 4 hours, cooled and poured into hexane. The solid is collected by filtration and washed with ethanol giving the desired product, m.p. 229°-232° C.

reactant | 3-hydrazino-6-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine | one gram | N(N)C=1N=NC(=CN1)C=1C=C(C=CC1)C(F)(F)F | C10H8F3N5
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
solvent | hexane | CCCCCC | C6H14
product | 6-(α,α,α-Trifluoro-m-tolyl)-1,2,4-triazolo[4,3-b]-1,2,4-triazine | FC(C1=CC(=CC=C1)C=1C=NC=2N(N1)C=NN2)(F)F | C11H6F3N5
